US03994896
To a mixture of p-toluenesulfonyl chloride (22.4 g., 0.12 moles) and 50 ml. of anhydrous pyridine is added 14 g. of non-4-en-6-yn-1-ol (0.107 moles) with ice bath cooling. The mixture is stirred for 1 hour and then is stored at 0° overnight. Ice is added to the mixture which is extracted with several portions of 50:50 ether/hexane. The combined organic phase is washed with 5% HCl, water, saturated sodium bicarbonate and dried over sodium sulfate. Removal of solvent at reduced pressure and subsequent solvent removal at 0.1 mm. for 1 hour gives 1-tosyloxy-non-4-en-6yne (28 g.).

reactant | p-toluenesulfonyl chloride | 0.12 moles, 22.4 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | non-4-en-6-yn-1-ol | 0.107 moles | C(CCC=CC#CCC)O | C9H14O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-tosyloxy-non-4-en-6yne | 28 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCCCC=CC#CCC | C16H20O3S
